US04806538
A solution of (αR,βR)-Nα -Benzyloxycarbonyl-5-chloro-1-ethyl-β-methyltryptophan methyl ester (4.17 g) in methanol (100 ml) containing 10% paradium on charcoal (0.5 g) was hydrogenated. After removal of the catalyst and evaporation of the solvent, (αR,βR)-5-chloro-1-ethyl-β-methyltryptophan methyl ester (2.45 g) was obtained as a yellow amorphous powder.

reactant | (αR,βR)-Nα -Benzyloxycarbonyl-5-chloro-1-ethyl-β-methyltryptophan methyl ester | 4.17 g | COC([C@H](NC(=O)OCC1=CC=CC=C1)[C@@H](C1=CN(C2=CC=C(C=C12)Cl)CC)C)=O | C23H25ClN2O4
solvent | methanol | 100 ml | CO | CH4O
product | (αR,βR)-5-chloro-1-ethyl-β-methyltryptophan methyl ester | 2.45 g | COC([C@H](N)[C@@H](C1=CN(C2=CC=C(C=C12)Cl)CC)C)=O | C15H19ClN2O2
